US08455475B2
2-(Pyridin-4-yl)-2,7-diazaspiro[4.5]decane trihydrochloride (AMN-16)
The synthesis was carried out analogously to the synthesis of amine AMN-07. For this, in step (i) tert-butyl 2,7-diazaspiro[4.5]decane-7-carboxylate was reacted with 4-chloropyridinium chloride (yield: 41%). The Boc protective group was then split off. In step (ii), ethanol (6 ml) and acetyl chloride (0.27 ml, 3.94 mmol) were added to tert-butyl 2-(pyridin-4-yl)-2,7-diazaspiro[4.5]decane-7-carboxylate (0.25 g, 0.788 mmol) and the mixture was stirred at room temperature for 12 h. When the reaction was complete, the solvent was removed in vacuo. Yield: 0.23 g (89%).

reactant | acetyl chloride | 3.94 mmol, 0.27 ml | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 2-(pyridin-4-yl)-2,7-diazaspiro[4.5]decane-7-carboxylate | 0.788 mmol, 0.25 g | N1=CC=C(C=C1)N1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C | C18H27N3O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-(Pyridin-4-yl)-2,7-diazaspiro[4.5]decane trihydrochloride | Cl.Cl.Cl.N1=CC=C(C=C1)N1CC2(CC1)CNCCC2 | InChI=1S/C13H19N3.3ClH/c1-4-13(10-15-6-1)5-9-16(11-13)12-2-7-14-8-3-12;;;/h2-3,7-8,15H,1,4-6,9-11H2;3*1H
